US05618821
To a solution of 2-fluoro-6-methylpyridine (27 mmol) in 65 ml of freshly distilled THF was added via syringe 13.5 ml of 2M LDA, and the resulting mixture was stirred at -78° C. for 20 min. To the above cold solution was added 4 ml of 4M ethylene oxide and the mixture was allowed to warm to room temperature with stirring. The mixture was diluted with water, extracted with ether, and the organic layer was washed with water (2x) and brine, and dried over sodium sulfate. The organic solution was concentrated, and the residue was purified by flash chromatography (chloroform/ethanol, 10:1) to yield 1.3 g (30.9%) of 2-fluoro-6-(3-hydroxypropyl)pyridine, as a yellow oil.

reactant | 2-fluoro-6-methylpyridine | 27 mmol | FC1=NC(=CC=C1)C | C6H6FN
reactant | THF | C1CCOC1 | C4H8O
reactant | LDA | 2M, 13.5 ml | [Li+].CC(C)[N-]C(C)C
reactant | ethylene oxide | 4M, 4 ml | C1CO1 | C2H4O
solvent | water | O | H2O
product | 2-fluoro-6-(3-hydroxypropyl)pyridine | 1.3 g, 30.9% | FC1=NC(=CC=C1)CCCO | C8H10FNO
